US09301525B2
300 mg (1.86 mmol) of 2-chloro-5-chloromethyl pyridine was dissolved in 6 ml of anhydrous DMF, 118 mg (1.24 mmol) of 2-aminopyrimidine was added thereto, and the resulting mixture was stirred at 80° C. for 8 hours. After the reaction was completed, the reaction solution was returned to room temperature to distill off DMF under reduced pressure. Diethyl ether was added thereto, and thus crystallization was occurred on the wall surface of an eggplant flask. Diethyl ether was removed by decantation and dried well to obtain 1-((6-chloropyridin-3-yl)methyl)pyrimidin-2(1H)-imine hydrochloride. Amount obtained 107 mg (yield 34%)

reactant | 2-chloro-5-chloromethyl pyridine | 1.86 mmol, 300 mg | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
reactant | 2-aminopyrimidine | 1.24 mmol, 118 mg | NC1=NC=CC=N1 | C4H5N3
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | 1-((6-chloropyridin-3-yl)methyl)pyrimidin-2(1H)-imine hydrochloride | yield 34% | Cl.ClC1=CC=C(C=N1)CN1C(N=CC=C1)=N | InChI=1S/C10H9ClN4.ClH/c11-9-3-2-8(6-14-9)7-15-5-1-4-13-10(15)12;/h1-6,12H,7H2;1H
